US07875636B2
A suspension of 2-(4-bromomethyl)phenylpropionic acid (2.0 g, 8.2 mmol) and potassium cyanide (1.6 g, 24.7 mmol) in EtOH (10 mL) and water (2 mL) was heated at 80° C. in a sealed tube for 1 h. The mixture was cooled to room temperature, diluted with water (10 mL) and the EtOH was removed under reduced pressure. The remaining aqueous mixture was extracted once with EtOAc then acidified carefully with 2N HCl until pH˜3 is reached. The aqueous layer was extracted with EtOAc and the combined organic layer was dried over MgSO4, filtered, and concentrated to give 2-[4-(cyanomethyl)phenyl]propionic acid in ˜90% purity. This material was used directly in the next step. A mixture of 2-[4-(cyanomethyl)phenyl]propionic acid (1.4 g, 7.4 mmol) in MeOH (8 mL) and aqueous NaOH(SN, 8 mL, 40 mmol) was heated at 85° C. in a sealed tube for 1.5 h. The mixture was cooled to room temperature, the MeOH was removed under reduced pressure, and the remaining aqueous was extracted with once ether. The aqueous layer was acidified with 2N HCl until pH˜2 to generate a precipitate that was filtered and dried under vacuum to afford 2-[4-(carboxymethyl)phenyl]propionic acid (1.1 g, 71%) as an off-white solid; 1H NMR (400 MHz, DMSO-d6) δ 12.27 (br s, 1H), 7.15-7.22 (m, 4H), 3.61 (q, J=6.8 Hz, 1H), 3.50 (s, 2H), 1.30 (d, J=7.2 Hz, 3H); MS (Electrospray): m/z 163.1 (M-CO2H). To a suspension of (R)-1-[5-(2,2,2-trifluoroethoxy)pyridine-2-yl]ethanamine bis-HCl (0.39 g, 1.3 mmol), 2-[4-(carboxymethyl)phenyl]propionic acid (0.35 g, 1.7 mmol), EDC (0.35 g, 1.8 mmol), and 1-hydroxy-7-azabenzotriazole (0.25 g, 1.8 mmol) in DMF (5 mL) was added diisopropylethylamine (1.2 mL, 6.7 mmol). After stirring for 2 h at room temperature, the mixture was diluted with water (20 mL) and extracted with dichloromethane. The organic layer was dried over MgSO4, filtered, and concentrated to give a crude oil that was purified by preparative reversed-phase HPLC to give 2-{4-[2-oxo-2-(((1R)-1-[5-(2,2,2-trifluoroethoxy)-pyridine-2-yl]ethyl)amino)ethyl]phenyl}propionic acid mono-TFA salt as a foam; 1H NMR (400 MHz, DMSO-d6) δ 8.50 (d, J=7.6 Hz, 1H), 8.33 (d, J=2.8 Hz, 1H), 7.49 (dd, J=2.8 and 8.8 Hz, 1H), 7.28 (d, J=8.8 Hz, 1H), 7.19 (s, 4H), 4.88-4.93 (m, 1H), 4.85 (q, J=8.8 Hz, 2H), 3.62 (q, J=7.2 Hz, 1H), 3.44 (s, 2H), 1.35 (d, J=8.0 Hz, 3H), 1.33 (d, J=7.6 Hz, 3H); MS (Electrospray): m/z 411.4 (M+H).

reactant | (R)-1-[5-(2,2,2-trifluoroethoxy)pyridine-2-yl]ethanamine bis-HCl | 1.3 mmol, 0.39 g | Cl.Cl.FC(COC=1C=CC(=NC1)[C@@H](C)N)(F)F
reactant | 2-[4-(carboxymethyl)phenyl]propionic acid | 1.7 mmol, 0.35 g | C(=O)(O)CC1=CC=C(C=C1)C(C(=O)O)C | C11H12O4
reactant | EDC | 1.8 mmol, 0.35 g
reactant | 1-hydroxy-7-azabenzotriazole | 1.8 mmol, 0.25 g | ON1N=NC2=C1N=CC=C2 | C5H4N4O
reactant | diisopropylethylamine | 6.7 mmol, 1.2 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | water | 20 mL | O | H2O
product | 2-{4-[2-oxo-2-(((1R)-1-[5-(2,2,2-trifluoroethoxy)-pyridine-2-yl]ethyl)amino)ethyl]phenyl}propionic acid mono-TFA salt | OC(=O)C(F)(F)F.O=C(CC1=CC=C(C=C1)C(C(=O)O)C)N[C@H](C)C1=NC=C(C=C1)OCC(F)(F)F | InChI=1S/C20H21F3N2O4.C2HF3O2/c1-12(19(27)28)15-5-3-14(4-6-15)9-18(26)25-13(2)17-8-7-16(10-24-17)29-11-20(21,22)23;3-2(4,5)1(6)7/h3-8,10,12-13H,9,11H2,1-2H3,(H,25,26)(H,27,28);(H,6,7)/t12?,13-;/m1./s1
